US07238716B2
To a mixture of 2-benzyloxy-5-methoxymethoxybenzaldehyde (10.03 g), ethanol (50 mL) and tetrahydrofuran (100 mL) was added sodium tetrahydroborate (1.43 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give (2-benzyloxy-5-methoxymethoxyphenyl)methanol as a colorless oil (10.08 g, 97%).

reactant | 2-benzyloxy-5-methoxymethoxybenzaldehyde | 10.03 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OCOC | C16H16O4
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | sodium tetrahydroborate | 1.43 g | [BH4-].[Na+]
solvent | water | O | H2O
product | (2-benzyloxy-5-methoxymethoxyphenyl)methanol | 10.08 g, 97% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCOC)CO | C16H18O4
